US05037827
600 ml of a solution of 18.3 g of 3,4,5-trimethoxyaniline in toluene was added to 140 ml of a solution of 48 ml of trichloromethyl chloroformate in toluene and the mixture was refluxed for 3 h. After cooling, the solvent was distilled off and the residue was distilled under reduced pressure (115° C./l mmHg) to obtain 15.53 g of 3,4,5-trimethoxyphenyl isocyanate.

reactant | 3,4,5-trimethoxyaniline | 18.3 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | trichloromethyl chloroformate | 48 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4,5-trimethoxyphenyl isocyanate | 15.53 g | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
